US04153632
2-Methyl-3-nitrobenzoyl chloride (9.98 grams; 0.05 mole) was dissolved in 35 mls. of dry benzene and the solution was added to a slurry of aluminum chloride (13.3 grams; 0.10 mole) in 40 mls. of dry benzene over a period of 10 minutes. The resulting reaction mixture was stirred at room temperature for 21/2 hours, then heated at reflux for 2 hours and cooled to room temperature. The cooled reaction mixture was poured into 200 mls. of dilute hydrochloric acid, stirred for about 15 minutes and allowed to settle. The organic phase was separated and the aqueous phase was back extracted with 200 mls. of benzene. The benzene layer was separated and combined with the organic phase and the combined solution was washed successively with water, a dilute aqueous solution of sodium carbonate, and water. The organic phase was dried over anhydrous sodium sulfate, filtered, concentrated and distilled to obtain 2-methyl-3-nitrobenzophenone (11.45 grams; 95% yield; b.p. 183° C. at 2 mm; m.p. 42° C. after recrystallization from

reactant | 2-Methyl-3-nitrobenzoyl chloride | 0.05 mole, 9.98 grams | CC1=C(C(=O)Cl)C=CC=C1[N+](=O)[O-] | C8H6ClNO3
reactant | aluminum chloride | 0.10 mole, 13.3 grams | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | Cl | ClH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-methyl-3-nitrobenzophenone | 95% yield | CC1=C(C(=O)C2=CC=CC=C2)C=CC=C1[N+](=O)[O-] | C14H11NO3
